US07115364B1
1. Preparation of 4,5-methylenedioxy-2-nitroacetophenone
A solution of 50 g (0.305 mole) 3,4-methylenedioxy-acetophenone (Aldrich) in 200 mL glacial acetic acid was added dropwise over 30 minutes to 700 mL of cold (2–4° C.) 70% HNO3 with stirring (NOTE: the reaction will overheat without external cooling from an ice bath, which can be dangerous and lead to side products). At temperatures below 0° C., however, the reaction can be sluggish. A temperature of 3–5° C. seems to be optimal). The mixture was left stirring for another 60 minutes at 3–5° C., and then allowed to approach ambient temperature. Analysis by TLC (25% EtOAc in hexane) indicated complete conversion of the starting material within 1–2 hr. When the reaction was complete, the mixture was poured into ˜3 liters of crushed ice, and the resulting yellow solid was filtered off, washed with water and then suction-dried. Yield 53 g (84%), used without further purification.

reactant | 3,4-methylenedioxy-acetophenone | 0.305 mole, 50 g | CC(=O)C1=CC2=C(C=C1)OCO2 | C9H8O3
reactant | HNO3 | [N+](=O)(O)[O-] | HNO3
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | acetic acid | 200 mL | C(C)(=O)O | C2H4O2
solvent | hexane | CCCCCC | C6H14
product | 4,5-methylenedioxy-2-nitroacetophenone | CC(=O)C1=CC2=C(C=C1[N+](=O)[O-])OCO2 | C9H7NO5
